US08530648B2
b) (1-tosyl-1H-indol-3-yl)methanol
To a solution of 1-tosyl-1H-indole-3-carbaldehyde (7 g, 23.385 mmol) in MeOH (70 mL), NaBH4 (1.77 g, 46.769 mmol) was added at 0° C. and the mixture was stirred for 10 min. The reaction mixture was allowed to warm to rt and stirring was continued for 18 h. The solvent was removed under reduced pressure at 45° C. and the crude reaction mixture was quenched with saturated aqueous ammonium chloride solution. Ethyl acetate was added and the organic layer was washed with water and brine. The organic layer was dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure to yield a solid (6.5 g, 92%). [1H-NMR (CDCl3, 300 MHz) δ 8.02-7.95 (m, 1H), 7.82-7.75 (m, 2H), 7.65-7.53 (m, 2H), 7.40-7.19 (m, 4H)].

reactant | 1-tosyl-1H-indole-3-carbaldehyde | 23.385 mmol, 7 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C2=CC=CC=C12)C=O | C16H13NO3S
reactant | NaBH4 | 46.769 mmol, 1.77 g | [BH4-].[Na+]
solvent | MeOH | 70 mL | CO | CH4O
product | (1-tosyl-1H-indol-3-yl)methanol | 6.5 g, 92% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C2=CC=CC=C12)CO | C16H15NO3S
